US05776367
In a 1 l, three-necked flask equipped with a stirrer, a thermometer and a nitrogen gas-introducing tube, (4-methoxycyclohexyl)methyltriphenylphosphine iodide (175.6 g, 0.34 mol) was suspended in THF (500 ml) in a nitrogen gas atmosphere, followed by cooling the suspension down to -30° C. or lower by means of acetone-dry ice refrigerant carrier, adding potassium-t-butoxide (40.1 g, 0.36 mol), and agitating the mixture for 2 hours, while keeping the temperature at -30° C. or lower. A solution of 4-(2-formylethane-1-yl)cyclohexanone (41.2 g, 0.27 mol) obtained according to the above process, dissolved in THF (150 ml), was dropwise added over 40 minutes, while keeping the same temperature, followed by elevating the temperature up to room temperature over one hour, further agitating the mixture at room temperature for 4 hours, adding water (300 ml) to the reaction solution to complete the reaction, three times extracting with toluene (300 ml), three times washing the toluene layer with water (300 ml), drying the layer over anhydrous magnesium sulfate, distilling off the solvent under reduced pressure, for concentration, and purifying the concentrated residue according to silica gel chromatography using a mixed solvent of toluene/ethyl acetate (2:1) as a developing solvent, to obtain yellow-brown crystals (65.0 g). The crystals refer to (4-(trans-4-methoxycyclohexyl)-(E,Z)-3-butenyl)cyclohexanone.

reactant | (4-methoxycyclohexyl)methyltriphenylphosphine iodide | 0.34 mol, 175.6 g | [I-].COC1CCC(CC1)CP(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | acetone dry ice | CC(=O)C.C(=O)=O
reactant | potassium-t-butoxide | 0.36 mol, 40.1 g | CC(C)([O-])C.[K+]
solvent | THF | 500 ml | C1CCOC1 | C4H8O
product | 4-(2-formylethane-1-yl)cyclohexanone | 0.27 mol, 41.2 g | C(=O)CCC1CCC(CC1)=O | C9H14O2
